US07259266B2
8-[4-(aminosulfonyl)phenyl]-6-chloro-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid
Chlorosulfonic acid (5 mL) was cooled to −20° C. and 6-chloro-8-phenyl-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid prepared as in U.S. Pat. No. 6,271,253 B1 Example 129, Step 2 (61.7 mg, 0.174 mmole) was added as a solid. The bright orange mixture was then added dropwise to a cold ammonium hydroxide solution, EtOAc was added and the mixture was stirred for 1 h. The EtOAc layer was separated, washed with H2O, aqueous NH4Cl, dried over Na2SO4, concentrated in vacuo and triturated with hexanes to give the product: 1H NMR (CD3OD/400 MHz) 7.95 (d, 2H, J=8.6 Hz), 7.81 (s, 1H), 7.66 (d, 2H, J=8.6 Hz), 7.46 (d, 1H, J=2.6 Hz), 7.42 (d, 1H, J=2.6 Hz), 5.80 (q, 1H, J=7.0 Hz); ESHRMS m/z 431.9945 (M−H, C17H10ClF3NO5S, Calc'd 431.9915).

reactant | Chlorosulfonic acid | 5 mL | ClS(=O)(=O)O | ClHO3S
reactant | 6-chloro-8-phenyl-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | ClC=1C=C2C=C(C(OC2=C(C1)C1=CC=CC=C1)C(F)(F)F)C(=O)O | C17H10ClF3O3
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 8-[4-(aminosulfonyl)phenyl]-6-chloro-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | NS(=O)(=O)C1=CC=C(C=C1)C=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)O)Cl | C17H11ClF3NO5S
